US05441731
12-Bromododecanol (340 g) and methacrylic anhydride (200 g) were reacted as described in Example 1a to give 12-bromododecylmethacrylate (270 g) after chromatography on silica gel.

reactant | 12-Bromododecanol | 340 g | BrCCCCCCCCCCCCO | C12H25BrO
reactant | methacrylic anhydride | 200 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
product | 12-bromododecylmethacrylate | 270 g | BrCCCCCCCCCCCCOC(C(=C)C)=O | C16H29BrO2
